US05153196
In the manner of Examples III.A. and B., 8-chloro-4-hydroxyquinoline was prepared from 2-chloroaniline and dimethyl acetylenedicarboxylate.

reactant | 2-chloroaniline | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | dimethyl acetylenedicarboxylate | C(#CC(=O)OC)C(=O)OC | C6H6O4
product | 8-chloro-4-hydroxyquinoline | ClC=1C=CC=C2C(=CC=NC12)O | C9H6ClNO
